US06509483B2
To a stirred solution/suspension of 5-carboxyphthalide (57 mmol) and N,N,N′,N′-tetramethylethylenediamine (144 mmol) in THF (200 mL) was added a solution of p-fluorophenylmagnesium bromide (approx. 0.5 M) and magnesium bromide (approx 0.125 M) in THF dropwise until no more starting phthalide remained. A solution of 3-(N,N-dimethylamino)propylmagnesium chloride (approx. 2 M in THF/heptane) was added dropwise until no more of the previous intermediate remained. Methanesulfonyl chloride (228 mmol) was added dropwise over 5 minutes in an exothermic reaction . After 30 min, DMF (5 mL) was added, followed by POCl3 (228 mmol) dropwise over 10 minutes in a mildly exothermic reaction and the mixture was stirred for 2 h. t-Butylamine (285 mmol) was added dropwise over 15 minutes and the mixture was stirred overnight. DMF (5 mL) was added dropwise, followed by POCl3 (2.3 mol) over 1 h. The mixture was stirred overnight, and was then heated to reflux for 1 h. The mixture was cooled in and ice/water bath, and water (200 mL) was cautiously added dropwise over 1 h in an exothermic reaction. The mixture was basified to pH >9 with an aqueous solution of ammonia in water (25% w/v). Toluene (100 mL) was added, and the mixture was filtered. The residue was washed with further toluene, the combined filtrates were separated, and the organic phase was collected. The organic phase was extracted twice with an aqueous solution of H2SO4 (10 % v/v). The combined acid extracts were basified to pH >9 with an aqueous solution of ammonia in water (25% w/v) and were extracted with toluene. The combined toluene layers were dried and evaporated to give citalopram base as a dark oil. The oxalate salt was prepared using standard procedures to give citalopram oxalate. Yield 9.2 g. Purity (HPLC peak area) >90%.

reactant | 5-carboxyphthalide | 57 mmol | C(=O)(O)C=1C=C2COC(=O)C2=CC1 | C9H6O4
reactant | N,N,N′,N′-tetramethylethylenediamine | 144 mmol | CN(CCN(C)C)C | C6H16N2
reactant | p-fluorophenylmagnesium bromide | approx. 0.5 M | FC1=CC=C(C=C1)[Mg]Br
reactant | magnesium bromide | approx 0.125 M | [Br-].[Mg+2].[Br-]
reactant | phthalide | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | 3-(N,N-dimethylamino)propylmagnesium chloride | approx. 2 M | CN(C)CCC[Mg]Cl
reactant | Methanesulfonyl chloride | 228 mmol | CS(=O)(=O)Cl | CH3ClO2S
reactant | POCl3 | 228 mmol | O=P(Cl)(Cl)Cl | Cl3OP
reactant | t-Butylamine | 285 mmol | C(C)(C)(C)N | C4H11N
reactant | POCl3 | 2.3 mol | O=P(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | water | 200 mL | O | H2O
solvent | Toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | citalopram | CN(C)CCCC1(C=2C=CC(=CC2CO1)C#N)C=3C=CC(=CC3)F | C20H21FN2O
